US04526720
17α-Ethynyl-17β-hydroxy-16β-methylandrosta-1,4,9(11)-trien-3-one
16β-Methylandrosta-1,4,9(11)-triene-3,17-dione (U.S. Pat. No. 3,010,958, 20 g) is added in THF (60 ml) to the lithium acetylide at -40°. When the reaction is complete, acetone (24 ml) is added. The mixture is warmed while bubbling nitrogen thru the slurry to remove excess acetylene. Water (25 ml) is slowly added. Water (105 ml) is then added more quickly creating two phases which are separated. The aqueous phase is washed with THF (50 ml); the organic phases (pH is 9) are combined, washed with aqueous sulfuric acid and concentrated to 350 ml. Heptane (200 ml) is added, the mixture heated to 80° and held for 30 min. The mixture is cooled slowly to 30° and then to 18° for one hr. The mixture is filtered, the solid washed with heptane (20 ml) and then dried under reduced pressure with heat to give the title compound.

reactant | 16β-Methylandrosta-1,4,9(11)-triene-3,17-dione | C[C@@H]1C([C@]2(C)[C@@H](C1)[C@@H]1CCC3=CC(C=C[C@]3(C)C1=CC2)=O)=O | C20H24O2
reactant | lithium acetylide | [C-]#[C-].[Li+].[Li+]
reactant | acetone | 24 ml | CC(=O)C | C3H6O
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | 17α-Ethynyl-17β-hydroxy-16β-methylandrosta-1,4,9(11)-trien-3-one | C(#C)[C@]1([C@]2(C)[C@@H](C[C@@H]1C)[C@@H]1CCC3=CC(C=C[C@]3(C)C1=CC2)=O)O | C22H26O2
